US05385925
4'-[[2-n-Butyl-6-(benzofuran-2-carbonylamino)-benzimidazol-1-yl]methyl]biphenyl-2-carboxylic acid
Prepared analogously to Example 71 from 4'-[(6-amino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid and benzofuran-2-carboxylic acid anhydride in pyridine.

reactant | 4'-[(6-amino-2-n-butyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | NC=1C=CC2=C(N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C1 | C25H25N3O2
reactant | benzofuran-2-carboxylic acid anhydride | O1C(=CC2=C1C=CC=C2)C(=O)OC(=O)C=2OC1=C(C2)C=CC=C1 | C18H10O5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4'-[[2-n-Butyl-6-(benzofuran-2-carbonylamino)-benzimidazol-1-yl]methyl]biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)NC(=O)C=2OC1=C(C2)C=CC=C1 | C34H29N3O4
